US09120773B2
In a stream of argon, 1.00 g (3.28 mmol) of 9-(4,4,5,5-tetramethyl-1,3,2-dioxabororan-2-yl)anthracene, 0.64 g (1.37 mmol) of 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine, 15.38 mg (0.069 mmol) of palladium acetate, and 0.21 mL of a toluene solution containing 0.21 mmol of tri-tert-butylphosphine were suspended in 65 mL of tetrahydrofuran, and the temperature of the obtained suspension was elevated to 70° C. 2.57 mL (10.3 mmol) of an aqueous 4N NaOH solution was gradually added dropwise to the suspension, and the obtained mixture was distilled under reflux for 3 hours. The resultant reaction mixture was left to stand to room temperature, and then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The thus-obtained crude product was purified by silica gel chromatography using a hexane/chloroform (5:1-2:1) mixed solvent as an eluent to give 0.39 g of the target 2-[3,5-di(9-anthryl)phenyl]-4,6-diphenyl-1,3,5-triazine as white solid (yield: 43%).

reactant | 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine | 1.37 mmol, 0.64 g | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H13Br2N3
reactant | toluene | 0.21 mL | C1(=CC=CC=C1)C | C7H8
reactant | tri-tert-butylphosphine | 0.21 mmol | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaOH | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 65 mL | O1CCCC1 | C4H8O
catalyst | palladium acetate | 0.069 mmol, 15.38 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[3,5-di(9-anthryl)phenyl]-4,6-diphenyl-1,3,5-triazine | yield: 43% | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=1C=C(C=C(C1)C=1C2=CC=CC=C2C=C2C=CC=CC12)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C49H31N3
